US07732448B2
0.08 g of sodium hydride (60% oil suspension) was suspended in 3 ml of tetrahydrofuran. 0.5 ml of tetrahydrofuran solution of 0.15 g of 2-butyn-1-ol was added dropwise at room temperature therein, and the mixture was stirred for 10 minutes. Into the mixture was added dropwise 0.5 ml of tetrahydrofuran solution of 0.33 g of 1-(6-chloropyrimidin-4-yl)-2,5-dimethyl hexahydro-1H-azepine at room temperature, and stirred for 4 hours at 60° C. After the reaction mixture was cooled to near room temperature, a saturated ammonium chloride aqueous solution was added therein, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.17 g of 1-(6-(2-butynyloxy)pyrimidin-4-yl)-2,5-dimethyl hexahydro-1H-azepine (hereinafter, referred to as Compound (34)).

reactant | sodium hydride | 0.08 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.15 g | C(C#CC)O | C4H6O
reactant | 1-(6-chloropyrimidin-4-yl)-2,5-dimethyl hexahydro-1H-azepine | 0.33 g | ClC1=CC(=NC=N1)N1C(CCC(CC1)C)C | C12H18ClN3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 1-(6-(2-butynyloxy)pyrimidin-4-yl)-2,5-dimethyl hexahydro-1H-azepine | 0.17 g | C(C#CC)OC1=CC(=NC=N1)N1C(CCC(CC1)C)C | C16H23N3O
